US08071584B2
4-Fluoro-2,3-dihydro-1H-indole-7-carboxylic acid
A solution of 1 M HCl (1 mL, 1 mmol) was added to a solution of 1-{[(1,1-Dimethylethyl)oxy]carbonyl}-4-fluoro-2,3-dihydro-1H-indole-7-carboxylic acid (50 mg, x mmol) in DCM at room temperature. The reaction was stirred for 2 h, and additional 1 M HCl (1 mL, 1 mmol) was added. The reaction was stirred overnight, and the mixture was evaporated and dried under high vacuum, giving the title compound.

reactant | HCl | 1 mmol, 1 M, 1 mL | Cl | ClH
reactant | 1-{[(1,1-Dimethylethyl)oxy]carbonyl}-4-fluoro-2,3-dihydro-1H-indole-7-carboxylic acid | 50 mg | CC(C)(C)OC(=O)N1CCC2=C(C=CC(=C12)C(=O)O)F | C14H16FNO4
reactant | HCl | 1 mmol, 1 M, 1 mL | Cl | ClH
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-Fluoro-2,3-dihydro-1H-indole-7-carboxylic acid | FC1=C2CCNC2=C(C=C1)C(=O)O | C9H8FNO2
